US04002749
B. 1-(4,5-Dihydro-2-thiazolyl)-1,3-dihydro-3-(2-thienylmethylene)-2H-indol-2-one
To a stirred suspension of NaH (0.51 gm; 21.1 mmole) in dry tetrahydrofuran (100 ml) is added dropwise a solution of 3-(2-thienylmethylene)-indolin-2-one prepared as described above (4.0 gm; 17.6 mmole) in dry tetrahydrofuran (100 ml). The resultant solution is stirred at room temperature for another hour, after which, it is cooled to 0° C in an ice bath, and a solution of chloroethylisothiocyanate (2.2 gm; 17.6 mmole) in dry tetrahydrofuran (50 ml) is added. The mixture is then heated at reflux temperature for 3.5 hours.

reactant | NaH | 21.1 mmole, 0.51 gm | [H-].[Na+]
reactant | 3-(2-thienylmethylene)-indolin-2-one | S1C(=CC=C1)C=C1C(NC2=CC=CC=C12)=O | C13H9NOS
reactant | chloroethylisothiocyanate | 17.6 mmole, 2.2 gm | ClCCN=C=S | C3H4ClNS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(4,5-Dihydro-2-thiazolyl)-1,3-dihydro-3-(2-thienylmethylene)-2H-indol-2-one | S1C(=NCC1)N1C(C(C2=CC=CC=C12)=CC=1SC=CC1)=O | C16H12N2OS2
